US07488844B2
(vi) (2S)-3-(4-{2-[(Cyclohexylmethvl)(heptyl)amino]-2-oxoethoxy}phenyl)-2-ethoxy-propanoic acid
To a solution of ethyl(2S)-3-(4-{2-[(cyclohexylmethyl)(heptyl)amino]-2-oxoethoxy}phenyl)-2-ethoxy-propanoate (0.031 g, 0.057 mmol) in THF (2.0 mL) were added water (2.0 mL) and lithium hydroxide (0.006 g, 0.26 mmol), and the reaction mixture was stirred at room temperature overnight. The mixture was acidified with 2M HCI and extracted with ethyl acetate (4×25 mL). The combined organic phase was washed with brine (25 mL), dried over Na2SO4, and concentrated in vacuo to afford 0.027 g (93%) of a colourless oil.

reactant | ethyl(2S)-3-(4-{2-[(cyclohexylmethyl)(heptyl)amino]-2-oxoethoxy}phenyl)-2-ethoxy-propanoate | 0.057 mmol, 0.031 g | C1(CCCCC1)CN(C(COC1=CC=C(C=C1)C[C@@H](C(=O)OCC)OCC)=O)CCCCCCC | C29H47NO5
reactant | water | 2.0 mL | O | H2O
reactant | lithium hydroxide | 0.26 mmol, 0.006 g | [OH-].[Li+]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | (2S)-3-(4-{2-[(Cyclohexylmethvl)(heptyl)amino]-2-oxoethoxy}phenyl)-2-ethoxy-propanoic acid | 0.027 g, 93% | C1(CCCCC1)CN(C(COC1=CC=C(C=C1)C[C@@H](C(=O)O)OCC)=O)CCCCCCC | C27H43NO5
